US06949579B2
N-[[6-(4-nitrophenyl)-1H-indazol-3-yl]]butanamide
8.6 cm3 of tetrabutylammonium fluoride as a 1M solution in tetrahydrofuran are added to 650 mg of N-[6-(4-nitrophenyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide, described previously, in 30 cm3 of tetrahydrofuran. The medium is maintained at 67° C. for 18 hours and is then allowed to return to room temperature to add 75 cm3 of ethyl acetate and 75 cm3 of saturated aqueous sodium hydrogen carbonate solution. The organic phase is washed with 50 cm3 of saturated aqueous sodium chloride solution and then with 50 cm3 of water, separated out after settling of the phases has taken place, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2 kPa; 45° C.). The residue is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2 cm), eluting with a cyclohexane/ethyl acetate mixture (50/50 by volume). The fractions containing the expected product are combined and concentrated to dryness under reduced pressure (2 kPa; 50° C.); the residue is taken up in 10 cm3 of ethyl acetate, filtered off on a sinter funnel and then washed successively with 5 cm3 of ethyl acetate and with 10 cm3 of diisopropyl ether. After drying (90 Pa; 50° C.), 280 mg of N-[6-(4-nitrophenyl)-1H-indazol-3-yl]butanamide are obtained in the form of yellow crystals melting at 250° C.

reactant | tetrabutylammonium fluoride | 8.6 cm3 | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-[6-(4-nitrophenyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 650 mg | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C23H30N4O4Si
reactant | ethyl acetate | 75 cm3 | C(C)(=O)OCC | C4H8O2
reactant | sodium hydrogen carbonate | 75 cm3 | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 cm3 | O1CCCC1 | C4H8O
product | N-[[6-(4-nitrophenyl)-1H-indazol-3-yl]]butanamide | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C2C(=NNC2=C1)NC(CCC)=O | C17H16N4O3
